US08202863B2
A mixture of 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (107 mg, 0.49 mmol, prepared according to the general procedure described in Example 2, steps 1 and 2), 1-hydroxybenzotriazole (75 mg, 0.56 mmol) and PS-DCC (511 mg, 1.28 mmol/g, 0.65 mmol) in DMF (8 mL) is shaken at room temperature for 15 min. Aniline (30.4 mg, 0.33 mmol) is added. The mixture is shaken at room temperature for 18 hours. PS-trisamine (392 mg, 3.75 mmol/g, 1.47 mmol) is added and the mixture is continually shaken at room temperature for 18 hours. The solid is filtered and washed with EtOAc. The filtrate is concentrated to afford 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid phenylamide as a solid in quantitative yield. MS: 294 (M+H).

reactant | 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid | FC=1C=C(C=CC1)C1=NC=C(C=N1)C(=O)O | C11H7FN2O2
reactant | 1-hydroxybenzotriazole | 0.56 mmol, 75 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | DCC | 0.65 mmol, 511 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Aniline | 0.33 mmol, 30.4 mg | NC1=CC=CC=C1 | C6H7N
reactant | trisamine | 1.47 mmol, 392 mg | C(C(CO)(CO)N)O | C4H11NO3
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid phenylamide | quantitative yield | C1(=CC=CC=C1)NC(=O)C=1C=NC(=NC1)C1=CC(=CC=C1)F | C17H12FN3O
